US06313122B1
A. 4-Cyano-N1,N2-bis(4-methoxybenzoyl)-1,2-benzenediamine
Using the procedures described in Example 93, Part A and Example 96, Part B, 2-nitro-4-cyanoaniline (31 mmol) and 4-anisoyl chloride yielded 500 mg (21%, three steps) of the title compound.

reactant | 2-nitro-4-cyanoaniline | 31 mmol | [N+](=O)([O-])C1=C(N)C=CC(=C1)C#N | C7H5N3O2
reactant | 4-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 4-Cyano-N1,N2-bis(4-methoxybenzoyl)-1,2-benzenediamine | C(#N)C=1C=C(C(=CC1)NC(C1=CC=C(C=C1)OC)=O)NC(C1=CC=C(C=C1)OC)=O | C23H19N3O4
